US08076478B2
(3) Synthesis of N,N-bis(3-(N,N-bis(2-cyanoethyl)amino)propyl)benzylamine
4.43 g of acetic acid was added to 4.00 g of N,N-bis(3-aminopropyl)benzylamine and 100 mL of acrylonitrile and the mixture was heated under reflux for 14 hours. After the reaction mixture was concentrated, 150 mL of water was added thereto and the mixture was neutralized by 4.60 g of 28% ammonia water, followed by extraction of the mixture with ethyl acetate (150 mL). After the organic layer was washed with water, it was dried with anhydrous magnesium sulfate. The solvent was distilled off to give 6.59 g of the title compound as a colorless oil.

reactant | N,N-bis(3-aminopropyl)benzylamine | 4.00 g | NCCCN(CCCN)CC1=CC=CC=C1 | C13H23N3
reactant | acrylonitrile | 100 mL | C(C=C)#N | C3H3N
solvent | acetic acid | 4.43 g | C(C)(=O)O | C2H4O2
product | N,N-bis(3-(N,N-bis(2-cyanoethyl)amino)propyl)benzylamine | 6.59 g | C(#N)CCN(CCC#N)CCCN(CCCN(CCC#N)CCC#N)CC1=CC=CC=C1 | C25H35N7
